US07388020B2
(iv) N-(2-{2-Hydroxy-2-methyl-3-[4-(2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)-1-piperidinyl]propoxy}phenyl)-2-pyridinecarboxamide
HATU in acetonitrile (0.2 M, 0.375 ml, 0.075 mmol) was added to a solution of 1-{1-[3-(2-aminophenoxy)-2-hydroxy-2-methylpropyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one (0.020 g, 0.05 mmol), 2-pyridinecarboxylic acid (0.006 g, 0.05 mmol) and Hünigs base (0.013 ml, 0.075 mmol) in THF (0.5 ml). After 0.5 h at 40° C. and 2 h at room temperature the reaction mixture was concentrated, and the residue purified on silica (dichloromethane-methanol, 12:1, containing 1% of NH4OH (25%)). Yield 20 mg of the title compound.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | acetonitrile | 0.075 mmol, 0.2 M, 0.375 ml | C(C)#N | C2H3N
reactant | 1-{1-[3-(2-aminophenoxy)-2-hydroxy-2-methylpropyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one | 0.05 mmol, 0.020 g | NC1=C(OCC(CN2CCC(CC2)N2C(NC3=C2C=CC=C3)=O)(C)O)C=CC=C1 | C22H28N4O3
reactant | 2-pyridinecarboxylic acid | 0.05 mmol, 0.006 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | Hünigs base | 0.075 mmol, 0.013 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | N-(2-{2-Hydroxy-2-methyl-3-[4-(2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)-1-piperidinyl]propoxy}phenyl)-2-pyridinecarboxamide | OC(COC1=C(C=CC=C1)NC(=O)C1=NC=CC=C1)(CN1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)C | C28H31N5O4
